Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Active bleeding from a right external iliac artery 
pseudoaneurysm s/p cardiac catheterization.
 
Major Surgical or Invasive Procedure:
Right lower extremity angiogram with right external iliac artery 
stent. 

 
History of Present Illness:
Patient is a ___ y/o female with PMH significant for atrial 
fibrillation and hypertension.  She is transferred to ___ from 
an OSH after a CTA, completed for c/o of abdominal pain, 
bloating and bruising, demonstrated right external iliac artery 
extravasation and RP hematoma. She will be admitted to the 
Vascular surgery service for repair of the EIC.  
 
Past Medical History:
Past Medical History: per HPI. Atrial fibrillation on Xarelto,
obesity, hypertension.

Past Surgical History:
Appendectomy and Cholecystectomy

 
Social History:
___
Family History:
Family History: non-contributory

 
Physical Exam:
Vitals - 98.5 143/79 67 18 96%/RA
General - alert and oriented x3, lying in bed, NAD
HEENT - atraumatic, skin anicteric, PERRL, MMM, no 
lymphadenopathy appreciated
CV - RRR
Lungs - breathing unlabored
Abdomen - soft but tender to palpation, swelling and some 
ecchymosis noted on RLQ
Left groin - puncture site well approximated , no erythema, 
swelling or drainage noted on exam.
Pulses - Left //P/D; Right //P/D
 
Pertinent Results:
___ 04:15PM BLOOD WBC-13.9* RBC-2.95* Hgb-7.9* Hct-25.7* 
MCV-87 MCH-26.8 MCHC-30.7* RDW-15.0 RDWSD-47.6* Plt ___
___ 04:15PM BLOOD Plt ___
___ 03:42AM BLOOD Glucose-105* UreaN-12 Creat-0.7 Na-140 
K-3.7 Cl-101 HCO3-25 AnGap-14
___ 03:42AM BLOOD Calcium-8.2* Phos-2.9 Mg-1.8
 
Brief Hospital Course:
Patient is a ___ y/o female with a PMH significant for Afib on 
Xarelto,  and hypertension.  She is s/p a diagnostic coronary 
cath on ___ and started to develop pain and swelling in the RLQ. 
 Imaging revealed a pseudoaneurysm with active extravasation of 
the right external iliac and retroperoneal hemotoma.  She was 
admitted to ___ on ___ for repair of the bleeding.

She underwent a right lower extremity angiogram with left 
femoral artery access with Dr. ___ on ___.  The 
procedure was performed under moderate sedation and was 
tolerated well by the patient.  After the procedure she 
recovered in the PACU and then transferred to the Vascular 
surgery floor for the remainder of her admission.  After the 
procedure her diet was advanced to a house diet which she 
tolerated well.  She was able to void on her own in QS.  She was 
encouraged to get OOB and ambulated independently.

On POD2, patient underwent a CTA of the abdomen to confirm 
stabilization of the pseudoaneurysm bleeding.  The CTA confirmed 
that the graft repair was well sealed.

Patient will be prescribed ASA 81 mg daily for graft patency.

A CBC completed on POD2 revealed the patient with asymptomatic 
acute blood loss anemia.  She was transfused 1 unit of PRBC and 
had an appropriate bump in her H/H.

Patient has a PMH of atrial fibrillation which was stable 
throughout her hospitalization.  Her home medication, xarelto, 
was re-started on POD2.

Patient has a PMH of hypertension, which was stable throughout 
her admission.  Her home medications, fleicanide and nadolol 
were continued with systolic BP parameters in place.

Patient will need to follow up with vascular surgery with a 
lower extremity non-invasive studies and an office visit in one 
month.

Patient is discharged home in an improved and stable condition

 
Medications on Admission:
Cetirizine 10 mg PO DAILY  
esomeprazole magnesium 20 mg oral DAILY  
Flecainide Acetate 100 mg PO Q12H  
Glucosamine (glucosamine sulfate) 1000 mg oral DAILY  
Losartan Potassium 25 mg PO DAILY  
Nadolol 40 mg PO BID  
Potassium Chloride 20 mEq PO DAILY  
Rivaroxaban 20 mg PO DAILY  
Sertraline 25 mg PO DAILY  

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
Decrease frequency and dose as pain level improves
 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
3.  Cetirizine 10 mg PO DAILY  
4.  esomeprazole magnesium 20 mg oral DAILY  
5.  Flecainide Acetate 100 mg PO Q12H  
6.  Glucosamine (glucosamine sulfate) 1000 mg oral DAILY  
7.  Losartan Potassium 25 mg PO DAILY  
8.  Nadolol 40 mg PO BID  
9.  Potassium Chloride 20 mEq PO DAILY  
10.  Rivaroxaban 20 mg PO DAILY  
11.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Right external iliac artery pseudoaneurysm

Secondary: Acute blood loss anemia, Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were transferred from an outside hospital 
for further evaluation of an injury to your right external iliac 
artery that occurred during your recent cardiac catheterization. 
 We covered the injured artery with a stent during an angiogram. 
   To do the procedure, a small puncture was made in your left 
groin artery.  The puncture site heals on its own: there are no 
stitches to remove.   You tolerated the procedure well and are 
now ready to be discharged from the hospital.   Please follow 
the recommendations below to ensure a speedy and uneventful 
recovery.

Peripheral Angiography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

 
Followup Instructions:
___